US09193935B2
6.4: 1-tert-Butyl-4-(5-(4-methoxyphenyl)-2-methylpent-3-enyl)benzene
Starting from p-methoxyphenethyltriphenylphosphonium bromide (3.10 g, 6.49 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 4.1 mL, 6.49 mmol, 1.0 equiv.) and 3-(4-tert-butylphenyl)-2-methylpropanal (1.99 g, 9.74 mmol, 1.5 equiv.), 1.07 g (44%) of the title compound as a light yellow oil was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 997:3).

reactant | p-methoxyphenethyltriphenylphosphonium bromide | 6.49 mmol, 3.10 g, 1.0 equiv. | [Br-].COC1=CC=C(CC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | n-BuLi | 6.49 mmol, 1.6 M, 4.1 mL, 1.0 equiv. | [Li]CCCC
reactant | 3-(4-tert-butylphenyl)-2-methylpropanal | 9.74 mmol, 1.99 g, 1.5 equiv. | C(C)(C)(C)C1=CC=C(C=C1)CC(C=O)C | C14H20O
product | 1-tert-Butyl-4-(5-(4-methoxyphenyl)-2-methylpent-3-enyl)benzene | 1.07 g, 44% | C(C)(C)(C)C1=CC=C(C=C1)CC(C=CCC1=CC=C(C=C1)OC)C | C23H30O
